US04593102
3-[(4-Chlorophenyl)sulfonyl]-N-[2-(dimethylamino)ethyl]-1-pyrrolidinecarboxamide
A solution of 5.00 g (0.0309 mole) of 1,1'-carbonyldiimidazole and 2.56 g (0.029 mole) of N,N-dimethylaminoethylamine in 200 ml of tetrahydrofuran was stirred at room temperature for about 1 hr. A solution of 5.99 g (0.0244 mole) of 3-[(4-chlorophenyl)sulfonyl]pyrrolidine (free base) in tetrahydrofuran was added and the solution was refluxed for 16 hr. The solvent was removed in vacuo and the resulting oil was dissolved in a mixture of 200 ml of diethyl ether and 20 ml of methylene chloride. The solution was extracted with one 150 ml portion of water. The ether phase was discarded. On standing at room temperature, the aqueous extract yielded a white precipitate. The precipitate was recrystallized from methylene chloride-diethyl ether to give 4.51 g (51.36%) of white crystals, m.p. 131°-132.5° C.

reactant | 1,1'-carbonyldiimidazole | 0.0309 mole, 5.00 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-dimethylaminoethylamine | 0.029 mole, 2.56 g | CNN(NC)CC | C4H13N3
reactant | 3-[(4-chlorophenyl)sulfonyl]pyrrolidine | 0.0244 mole, 5.99 g | ClC1=CC=C(C=C1)S(=O)(=O)C1CNCC1 | C10H12ClNO2S
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-[(4-Chlorophenyl)sulfonyl]-N-[2-(dimethylamino)ethyl]-1-pyrrolidinecarboxamide | 4.51 g, 51.36% | ClC1=CC=C(C=C1)S(=O)(=O)C1CN(CC1)C(=O)NCCN(C)C | C15H22ClN3O3S
